US04742057
A mixture of 3-(1-acetyl-4-piperidyl)indole (10.0 g), bromobenzene (6.48 g), potassium carbonate (5.70 g) and copper(II) oxide (0.26 g) in anhydrous N,N-dimethylformamide (10 ml) was refluxed for 30 minutes. The reaction mixture was cooled and diluted with chloroform, and the insoluble material was filtered off. The filtrate was concentrated under reduced pressure and the residue was subjected to column chromatography on alumina (400 g) followed by elution with a mixture of toluene and ethyl acetate (20:1 V/V). The fractions containing the desired compound were combined and concentrated under reduced pressure to give 3-(1-acetyl-4-piperidyl)-1-phenylindole (10.19 g).

reactant | 3-(1-acetyl-4-piperidyl)indole | 10.0 g | C(C)(=O)N1CCC(CC1)C1=CNC2=CC=CC=C12 | C15H18N2O
reactant | bromobenzene | 6.48 g | BrC1=CC=CC=C1 | C6H5Br
reactant | potassium carbonate | 5.70 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
catalyst | copper(II) oxide | 0.26 g | [Cu]=O
product | 3-(1-acetyl-4-piperidyl)-1-phenylindole | 10.19 g | C(C)(=O)N1CCC(CC1)C1=CN(C2=CC=CC=C12)C1=CC=CC=C1 | C21H22N2O
